US08252833B2
{4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid
Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate (0.072 g, 0.16 mmol) was suspended in ethanol (2 ml) and treated with 2N sodium hydroxide (6 ml). Heated to reflux at 100° C. under argon for 1 hour. The reaction was shown to be complete by LC/MS. The reaction mixture was cooled and the solvent evaporated to dryness. Water and 2N HCl was added to acidify. This was extracted with ethyl acetate (×2), dried over magnesium sulphate and evaporated to a solid which was dried overnight in a vacuum oven to give the title compound (0.038 g, 0.09 mmol).

reactant | Ethyl {4-[4,9-bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetate | 0.16 mmol, 0.072 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H26FNO5
reactant | sodium hydroxide | 2N, 6 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | {4-[4,9-Bis(ethyloxy)-1-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3-fluorophenyl}acetic acid | 0.09 mmol, 0.038 g | C(C)OC1=C2C(=C(C=3C(N(CC13)C1=C(C=C(C=C1)CC(=O)O)F)=O)OCC)C=CC=C2 | C24H22FNO5
